US08372842B2
tert-Butyl 4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.12 g, 0.218 mmol), Cu(I)I (0.0416 g, 0.218 mmol), 1,10-phenanthroline (0.0394 g, 0.218 mmol), 2-tert-butoxyethanol (0.774 g, 6.55 mmol) and KF on Al2O3 (40%; 0.222 g, 1.53 mmol) in toluene (4 mL) were stirred at 120° C. for 40 hours. The reaction was then cooled to room temperature. Ethyl acetate (10 mL) was then added. The reaction was filtered through a pad of celite and concentrated to dryness. The resulting residue was purified by chromatography (hexane:ethyl acetate, 3:1) to give tert-butyl 4-(3-(2-tert-butoxyethoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.080 g, 68%) as a solid. MS APCI (+) m/z 540.5 detected.

reactant | tert-Butyl 4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.218 mmol, 0.12 g | IC1=NN(C2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C23H28IN5O3
reactant | 1,10-phenanthroline | 0.218 mmol, 0.0394 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | 2-tert-butoxyethanol | 6.55 mmol, 0.774 g | C(C)(C)(C)OCCO | C6H14O2
reactant | KF | [F-].[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(3-(2-tert-butoxyethoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.080 g, 68% | C(C)(C)(C)OCCOC1=NN(C2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C29H41N5O5
